********************************************************************
* Carbon Nanotube Field Effect Transistors
*             HSPICE Model
*	       Version 2.2.1
*
*   
*   Copyright The Board Trustees of the Leland Stanford Junior University 2009
*   Albert Lin, Gordon Wan, Jie Deng, Prof. H-S Philip Wong
*   All Rights Reserved.
*
*   09/09/2008 Last Modified by Albert Lin.
*
*   Carbon Nanotube Field Effect Transistors Verilog-A implementation
*   based on 
*   "A Circuit-Compatible SPICE model for Enhancement Mode Carbon 
*   Nanotube Field Effect Transistors" by Jie Deng and H-S Philip Wong 
*
*   Patent Pending.
*   
*   File name: cnfet_sample.sp
********************************************************************

********************************************************************
* LICENSE AGREEMENT
* Stanford Leland Junior University and the authors ("Stanford") 
* provide these model files to you subject to the License Agreement, 
* which may be updated by us from time to time without notice to you. 
* The most-up-to-date License Agreement can be found at
* http://nano.stanford.edu/license.php
********************************************************************


***************************************************
*
*Sample HSPICE Deck
*
***************************************************


.TITLE 'INVERTER'


***************************************************
*For optimal accuracy, convergence, and runtime
***************************************************
.OPTIONS LIST NODE POST
.options POST
.options AUTOSTOP
.options INGOLD=2     DCON=1
.options GSHUNT=1e-12 RMIN=1e-15 
.options ABSTOL=1e-5  ABSVDC=1e-4 
.options RELTOL=1e-2  RELVDC=1e-2 
.options NUMDGT=4     PIVOT=13

.param   TEMP=27
***************************************************


***************************************************
*Include relevant model files
***************************************************
.lib 'CNFET.lib' CNFET
***************************************************


***************************************************
*Beginning of circuit and device definitions
***************************************************

*Some CNFET parameters:
.param Ccsd=0      CoupleRatio=0
.param m_cnt=1     Efo=0.6     
.param Wg=4e-9     Cb=40e-12
.param Lg=10e-9    Lgef=100e-9
.param Vfn=0       Vfp=0
.param m=11        n=3        
.param Hox=4e-9    Kox=16 

***********************************************************************
* Define power supply
***********************************************************************

***********************************************************************
* Main Circuits
***********************************************************************

* pFET
XCNT5 Vdd IN n2 n2 PCNFET Lch=Lg  Lgeff='Lgef' Lss=32e-9  Ldd=32e-9  
+ Kgate='Kox' Tox='Hox' Csub='Cb' Vfbp='Vfp' Dout=0  Sout=0  Pitch=20e-9  n1=0  n2=19  tubes=100

* pFET
XCNT6 Vdd IN OUT OUT PCNFET Lch=Lg  Lgeff='Lgef' Lss=32e-9  Ldd=32e-9  
+ Kgate='Kox' Tox='Hox' Csub='Cb' Vfbp='Vfp' Dout=0  Sout=0  Pitch=20e-9  n1=0  n2=10  tubes=100

* pFET
XCNT4 OUT OUT n2 n2 PCNFET Lch=Lg  Lgeff='Lgef' Lss=32e-9  Ldd=32e-9  
+ Kgate='Kox' Tox='Hox' Csub='Cb' Vfbp='Vfp' Dout=0  Sout=0  Pitch=20e-9  n1=0  n2=13  tubes=100

* nFET
XCNT3 OUT OUT n1 n1 NCNFET Lch=Lg  Lgeff='Lgef' Lss=32e-9  Ldd=32e-9  
+ Kgate='Kox' Tox='Hox' Csub='Cb' Vfbn='Vfn' Dout=0  Sout=0  Pitch=20e-9  n1=0  n2=13  tubes=100

* nFET
XCNT1 n1 IN GND GND NCNFET Lch=Lg  Lgeff='Lgef' Lss=32e-9  Ldd=32e-9  
+ Kgate='Kox' Tox='Hox' Csub='Cb' Vfbn='Vfn' Dout=0  Sout=0  Pitch=20e-9  n1=0  n2=19  tubes=100

* nFET
XCNT2 OUT IN GND GND NCNFET Lch=Lg  Lgeff='Lgef' Lss=32e-9  Ldd=32e-9  
+ Kgate='Kox' Tox='Hox' Csub='Cb' Vfbn='Vfn' Dout=0  Sout=0  Pitch=20e-9  n1=0  n2=10  tubes=100


***********************************************************************
* Measurements

***********************************************************************
Vdd Vdd 0 0.9
Vin IN 0 1
*Vin IN 0 pulse (0 1 0 0 0 50n 100n)
*.TRAN 1ns 1000ns
.dc Vin 0 1 0.01 
.PRINT V(IN) V(OUT)
***********************************************************************


.end 




